US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 17, using 0.65 g (3.0 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide which was prepared in the same manner as in Reference Example 2 and 3-(N-t-butyloxycarbonyl-N-methylamino)benzoic acid, instead of 3-pyridylacetic acid hydrochloride, to obtain 1.09 g of 1-benzyl-4-(3-(N-t-butyloxycarbonyl-N-methylamino)benzoylamino)-5-imidazole carboxamide (yield 81%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 3.0 mmol, 0.65 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 3-(N-t-butyloxycarbonyl-N-methylamino)benzoic acid | C(C)(C)(C)OC(=O)N(C)C=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | 3-pyridylacetic acid hydrochloride | Cl.N1=CC(=CC=C1)CC(=O)O
product | 1-benzyl-4-(3-(N-t-butyloxycarbonyl-N-methylamino)benzoylamino)-5-imidazole carboxamide | 1.09 g, yield 81% | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(C1=CC(=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C24H27N5O4
